US04238396
1-Methyl-2-(2',2',2'-trichloro-1'-hydroxyethyl)pyrrole (1.14 g, 5 mmol), which was prepared by the procedure of Example 2, was dissolved in the solvent (15 ml) shown in the next table. After water (15 ml) and alkali metal cyanide (MCN: amount is shown in the table) were added to the solution, a solution of potassium hydroxide in water (10 ml) was added during a period of 6 hours under vigorous stirring at 45° C. After confirmation of the disappearance of starting chloral adduct (overnight), the reaction mixture was diluted with water (100 ml) and extracted twice with ethyl acetate. The combined organic extracts were washed with brine and dried over anhydrous magnesium sulfate. Most of the solvent was removed under reduced pressure and the residue was dissolved again in the 50 ml exact amount of ethyl acetate. A portion of the solution was taken up and treated with diazomethane dissolved in ether. After removal of the excess diazomethane under reduced pressure, trans-stilbene was added as the internal standard and the yield of methyl 5-cyano-1-methylpyrrole-2-acetate (theoretical yield; 5 mmol) was determined by GC (2% EGA column, 1 m, 160° C.).

reactant | potassium hydroxide | [OH-].[K+]
reactant | chloral | O=CC(Cl)(Cl)Cl | C2HCl3O
reactant | methyl 5-cyano-1-methylpyrrole-2-acetate | yield; 5 mmol | C(#N)C1=CC=C(N1C)CC(=O)OC | C9H10N2O2
solvent | water | 10 ml | O | H2O
solvent | water | 100 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 1-Methyl-2-(2',2',2'-trichloro-1'-hydroxyethyl)pyrrole | 5 mmol, 1.14 g | CN1C(=CC=C1)C(C(Cl)(Cl)Cl)O | C7H8Cl3NO
